US07727986B2
4-[(2-chloro-6-methylpyrimidin-4-yl)oxy]-2,5-dimethylaniline
A solution of 4.53 g (33 mmol) 4-amino-2,5-dimethylphenol and 1.44 g NaOH (2M) in 30 ml water were added dropwise to a solution of 4.89 g (30.0 mmol) of 2,4-dichloropyrimidine in 50 ml of acetone. The reaction mixture was stirred for 20 h at ambient temperature.

reactant | 4-amino-2,5-dimethylphenol | 33 mmol, 4.53 g | NC1=CC(=C(C=C1C)O)C | C8H11NO
reactant | NaOH | 2M, 1.44 g | [OH-].[Na+]
reactant | 2,4-dichloropyrimidine | 30.0 mmol, 4.89 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 30 ml | O | H2O
product | 4-[(2-chloro-6-methylpyrimidin-4-yl)oxy]-2,5-dimethylaniline | ClC1=NC(=CC(=N1)OC1=CC(=C(N)C=C1C)C)C | C13H14ClN3O
